US06288061B1
Ethyl 2-hydroxyimino-3-(4-isopropoxyphenyl)-3-oxopropionate (15.0 g) and 4-nitrobenzylamine (11.2 g) were reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 5-(4-isopropoxyphenyl)-2-(4-nitrophenyl)imidazole-4-carboxylate (4.2 g).

reactant | Ethyl 2-hydroxyimino-3-(4-isopropoxyphenyl)-3-oxopropionate | 15.0 g | ON=C(C(=O)OCC)C(=O)C1=CC=C(C=C1)OC(C)C | C14H17NO5
reactant | 4-nitrobenzylamine | 11.2 g | [N+](=O)([O-])C1=CC=C(CN)C=C1 | C7H8N2O2
product | ethyl 5-(4-isopropoxyphenyl)-2-(4-nitrophenyl)imidazole-4-carboxylate | 4.2 g | C(C)(C)OC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC | C21H21N3O5
